US08106221B2
At 0° C., a solution of ethyl acrylate in alcohol (2M, 1000 mL, 2 mol) was added drop wise to a solution of MeNH2 in alcohol (33%, 540 mL, 4 mol). The resulting mixture was stirred for 3 h. Upon completion of the reaction, monitored by TLC, the solvent and volatiles were removed under reduced pressure to give ethyl 3-(methylamino)propanoate (250 g, crude) as an oil, which was used in the next step without further purification.

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | MeNH2 | CN | CH5N
product | ethyl 3-(methylamino)propanoate | 250 g | CNCCC(=O)OCC | C6H13NO2
